US06248755B1
A 2-L round-bottom flask was charged with 25.832 g isonipecotic acid, 30.5 mL benzaldehyde, 41.8 mL triethylamine, and 500 mL 1,2-dichloroethane to which was added 63.6 g sodium triacetoxyborohydride in portions over 20 minutes with stirring. After 24 hours, 4 mL benzaldehyde was added along with 21.2 g sodium triacetoxyborohydride in portions with 400 mL 1,2-dichloroethane. After an additional 8 hours, 4 mL of benzaldehyde was added along with 8.8 g sodium triacetoxyborohydride in portions. After stirring for additional 20 hours, the reaction mixture was poured into a separatory funnel, 300 mL each of ice water and concentrated HCl was added, the layers were separated, and the organic layer was washed with 4×75 mL 0.5M HCl. The combined aqueous layer was washed with 2×200 mL ether and was then concentrated under reduced pressure to constant weight to give 142 g of crude 1-benzyl-piperidine-4-carboxylic acid. To this material was added 39.02 g of N,O-dimethyl hydroxylamine hydrochloride, 81.08 g 1-hydroxybenzotriazole hydrate and 750 mL DMF with stirring. Next was added 174 mL diisopropylethylamine with stirring followed by 76.68 g 1-ethyl-3-(3-dimethylamino-propyl)carbodiimide in several portions over 5 minutes with stirring. After stirring for 72 hr, the cloudy reaction mixture was poured into 2 L ice water containing 100 mL 5N NaOH. The mixture was extracted with 500 and 4×250 mL ether, and the combined ether was washed with water (3×300 mL) and saturated brine (300 mL), dried over Na2SO4, filtered, and concentrated under reduced pressure to give 51.13 g of a yellow liquid. Flash chromatography on silica gel eluting with 40˜100% ethyl acetate in hexanes with 1% (v/v) Et3N gave 47.32 g title compound as a yellowish oil. RF: 0.16 (25% EtOAc in hexanes with 1% (v/v) Et3N). 1H NMR (500 MHz, CDCl3): δ7.31˜7.36 (m, 4H), 7.24˜7.28 (m, 1H), 3.71 (s, 3H), 3.53 (s, 2H), 3.20 (s, 3H), 2.94˜2.98 (m, 2H), 2.63˜2.70 (m, 1H), 2.01˜2.07 (m, 2H), 1.82˜1.90 (m, 2H), 1.70˜1.74 (m, 2H).

reactant | isonipecotic acid | 25.832 g | N1CCC(C(=O)O)CC1 | C6H11NO2
reactant | benzaldehyde | 30.5 mL | C(C1=CC=CC=C1)=O | C7H6O
reactant | sodium triacetoxyborohydride | 63.6 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | benzaldehyde | 4 mL | C(C1=CC=CC=C1)=O | C7H6O
reactant | sodium triacetoxyborohydride | 21.2 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | benzaldehyde | 4 mL | C(C1=CC=CC=C1)=O | C7H6O
reactant | HCl | Cl | ClH
catalyst | sodium triacetoxyborohydride | 8.8 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | 1,2-dichloroethane | 400 mL | ClCCCl | C2H4Cl2
solvent | 1,2-dichloroethane | 500 mL | ClCCCl | C2H4Cl2
solvent | triethylamine | 41.8 mL | C(C)N(CC)CC | C6H15N
product | 1-benzyl-piperidine-4-carboxylic acid | 142 g | C(C1=CC=CC=C1)N1CCC(CC1)C(=O)O | C13H17NO2
